US08865742B2
Step 1: Preparation of 2-chloro-6-methylamino-benzoic acid hydrochloride salt (I)
Anhydrous methanol (10 ml) was charged in a dry round bottom flask at 20-25° C. under nitrogen atmosphere. 2-amino-6-chloro-benzoic acid (201 mg, 1.17 mmol) was added, followed by paraformaldehyde (351.1 mg, 1.17 mmol). The mixture was stirred and cooled to 0-5° C. A 30 wt % solution of sodium methoxide (0.975 ml, 5.26 mmol) was added dropwise, keeping the temperature at 0-5° C. while stirring. The mixture was allowed to warm to room temperate (r.t.). Then, the resulting solution was heated to reflux for 1.5 h, then cooled to r.t. Sodium borohydride (209.1 mg, 5.5 mmol) was added in one portion, and the resulting mixture was heated to reflux for 2 h, then cooled to r.t. The reaction was concentrated by removal of solvent under reduced pressure. Chloroform (30 ml) and DM water (20 ml) were added, the mixture was cooled to 0-5° C., and the pH was adjusted to pH=2-3 with 1N HCl while stirring. The organic phase was separated and kept aside. The extraction step with chloroform (30 ml) was repeated twice more, the organic phases were combined and dried over sodium sulfate. The solvent was removed under reduced pressure resulting in a yellowish solid. Yield: 80%. The purity of the isolated product (Intermediate I-A) was 97% (HPLC, area %).

reactant | 2-amino-6-chloro-benzoic acid | 1.17 mmol, 201 mg | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
reactant | paraformaldehyde | 1.17 mmol, 351.1 mg | C=O | CH2O
reactant | sodium methoxide | 5.26 mmol, 0.975 ml | C[O-].[Na+]
reactant | Sodium borohydride | 5.5 mmol, 209.1 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-chloro-6-methylamino-benzoic acid hydrochloride salt | Yield: 80% | Cl.ClC1=C(C(=O)O)C(=CC=C1)NC | InChI=1S/C8H8ClNO2.ClH/c1-10-6-4-2-3-5(9)7(6)8(11)12;/h2-4,10H,1H3,(H,11,12);1H
